* DIP switch 7
* jjt 20/6/2002: created
*
*             Switch connections:
*             sw1
*             |  |  sw2
*             |  |  |  |  sw3
*             |  |  |  |  |  |   sw4
*             |  |  |  |  |  |  |   |    sw5
*             |  |  |  |  |  |  |   |   |   |    sw6
*             |  |  |  |  |  |  |   |   |   |   |   |    sw7
*             |  |  |  |  |  |  |   |   |   |   |   |   |   |
*             |  |  |  |  |  |  |   |   |   |   |   |   |   |
.subckt dpsw7 1  2  4  5  7  8  10  11  13  14  16  17  19  20
+ PARAMS: STATE1=0 STATE2=0 STATE3=0 STATE4=0 STATE5=0 STATE6=0 STATE7=0 RON=1m ROFF=100E6
*
V1 3  0 {STATE1}
V2 6  0 {STATE2}
V3 9  0 {STATE3}
V4 12 0 {STATE4}
V5 15 0 {STATE5}
V6 18 0 {STATE6}
V7 21 0 {STATE7}
*
SDIP1 1  2  3  0 DIPMOD
SDIP2 4  5  6  0 DIPMOD
SDIP3 7  8  9  0 DIPMOD
SDIP4 10 11 12 0 DIPMOD
SDIP5 13 14 15 0 DIPMOD
SDIP6 16 17 18 0 DIPMOD
SDIP7 19 20 21 0 DIPMOD
*
.MODEL DIPMOD SW(VT=0.5 RON={RON} ROFF={ROFF})
.ends dpsw7